Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lung cancer
 
Major Surgical or Invasive Procedure:
___
1. Left thoracotomy.
2. Left lower lobectomy.
3. Arterioplasty of lower lobe pulmonary artery.
4. Mediastinal lymphadenectomy.

___
Bronchoscopy

___
Bronchoscopy

 
History of Present Illness:
The patient is a ___ gentlman who was admitted to the hospital 
on ___ of this year for dyspnea, cough, and some low 
volume hemoptysis.  He underwent an endoscopy by Dr. ___ on 
___.  No endobronchial disease was noted, but a radial 
EBUS was performed from the superior segment of the left lower 
lobe.  Bronchial washings were positive for adenocarcinoma and 
the transbronchial biopsy showed atypical cells suspicious for 
large cell carcinoma. He has undergone imaging that includes 
both CT of the head on
___ that shows no metastatic disease.  CTA of the chest 
shows a left perihilar mass that is 4.0 x 1.9 cm.  This mass is 
centered in the left lower lobe, but does partially encase the 
left lower lobe superior segment PA.  There are also two nodules 
in the left upper lobe and a 0.9-cm nodule at the right apex.  
PET scan performed on ___ shows the hilar mass to be FDG 
avid
with an SUV of 17.  The left upper lobe nodule is non-FDG avid 
as are other pulmonary nodules.  There was no metastatic disease 
on this study. He subsequently underwent a mediastinoscopy with 
lymph node biopsy performed by Dr. ___ at ___ on ___, 
which was negative for malignancy. He now presents for surgical 
resection of his lung mass.

 
Past Medical History:
- Iron-deficiency anemia
- angioectasias in the distal small bowel
- Hyperlipidemia
- Hypertension
- Diabetes
- Dementia
- COPD
- OSA
- GERD 
- Peptic Ulcers

 
Social History:
___
Family History:
Daughter with skin cancer.
 
Physical Exam:
VS T 98.7, HR 86, BP 150/81, RR 20, O2-sat 95% RA
General: Appears well, NAD
HEENT: MMM, no scleral icterus, trachea and tongue midline, no 
palpable lymphadenopathy
Cardiac: RRR, no M/R/G
Pulmonary: CTAB, no rales/rhonchi/wheezes
Abdomen: Soft, NT/ND, positive bowel sounds, no palpable masses
Extremities: no edema
 
Pertinent Results:
___ 02:10PM   WBC-6.3 RBC-3.22* HGB-8.1* HCT-26.2* MCV-81* 
MCH-25.1* MCHC-30.8* RDW-16.5*
___ 02:10PM   GLUCOSE-187* UREA N-23* CREAT-1.3* SODIUM-142 
POTASSIUM-4.7 CHLORIDE-109* TOTAL CO2-25 ANION GAP-13

___ 3:04 pm BRONCHIAL WASHINGS      BRONCHIAL WASH. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora. 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     4 S
CEFTAZIDIME-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------   <=1 S

___
CXR :In comparison with study of earlier in this date, there is 
little 
interval change.  Substantial opacification of the left 
hemithorax persists with the right lung being essentially clear. 
 No appreciable pneumothorax.  Gas within soft tissues is seen 
in the supraclavicular level on the left 

___
CXR :
There continues to be elevation of the left hemidiaphragm with 
left 
effusion and an alveolar infiltrate in the left mid lung.  
However, overall the aeration on the left is much improved.  The 
right lung is clear. 
  

 
Brief Hospital Course:
The patient was admitted to the Thoracic Surgery Service for 
evaluation and treatment.  On ___, the patient underwent left 
thoracotomy, left lower lobectomy,
arterioplasty of lower lobe pulmonary artery, mediastinal 
lymphadenectomy, which went well without complication.  After a 
brief, uneventful stay in the PACU, the patient arrived on the 
floor NPO, on IV fluids, with a foley catheter, and an epidural 
for pain control.  The patient was hemodynamically stable.

Neuro: The patient received the epidural with good effect and 
adequate pain control.  When tolerating oral intake, the patient 
was transitioned to oral pain medications. He was resumed on his 
dementia medications and his narcotics were limited so as not to 
promote more confusion.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient had an episode of desaturation into the 
80's when chest physical therapy was being performed. He was 
transferred to the ICU where bronchoscopy was performed and 
secretions were evacuated. The secretions were sent for gram 
stain and culture, which grew pan-sensitive pseudomonas. 
Otherwise, the patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated.  Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary.  Electrolytes were 
routinely followed, and repleted when necessary.

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Secretions from 
bronchoscopy were sent for gram stain and culture. The patient 
received vancomycin and cefepime for empiric coverage for 
possible pneumonia. This regimen was scaled back to 
ciprofloxacin once the culture sensitivities returned. He will 
remain on Cipro thru ___.

Endocrine: Patient was maintained on sliding scale insulin to 
good effect. His blood sugars were monitored routinely. 

Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.

Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from webOMR.
1. Losartan Potassium 50 mg PO DAILY 
2. Hydrocortisone Cream 2.5% 1 Appl TP TWICE DAILY 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Carvedilol 12.5 mg PO BID 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. MEMAntine *NF* 10 mg Oral twice a day 
8. Amlodipine 5 mg PO DAILY 
9. Atorvastatin 20 mg PO DAILY 
10. Glargine 8 Units Bedtime
11. Ferrous Sulfate 325 mg PO DAILY 
12. Donepezil 10 mg PO HS 
13. Omeprazole 20 mg PO DAILY 
14. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Donepezil 10 mg PO HS 
6. Glargine 8 Units Bedtime
7. MEMAntine *NF* 10 mg Oral twice a day 
8. Omeprazole 40 mg PO DAILY 
9. Sertraline 100 mg PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Acetaminophen 650 mg PO Q6H 
12. Ciprofloxacin HCl 750 mg PO Q12H 
thru ___ 
RX *Cipro 750 mg 1 tablet(s) by mouth twice a day Disp #*8 
Tablet Refills:*0
13. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
14. Senna 1 TAB PO BID:PRN constipation 
RX *senna 8.6 mg 1 tablet by mouth twice a day Disp #*20 Tablet 
Refills:*0
15. TraMADOL (Ultram) 25 mg PO QID 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth four times 
a day Disp #*30 Tablet Refills:*0
16. Ferrous Sulfate 325 mg PO DAILY 
17. Hydrocortisone Cream 2.5% 1 Appl TP TWICE DAILY 
18. Losartan Potassium 50 mg PO DAILY 
19. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left lower lobe lung cancer
Pseudomonas pneumonia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

 
Followup Instructions:
___